US07012075B2
To N1-(cyanomethyl)-N2-(4-{4-[4-(tert-butoxycarbonyl)piperazin-1-yl]phenyl}-1,2,5-oxadiazol-3-yl)leucinamide (170 mg, 0.33 mmol) in dry THF (1 mL) under dry nitrogen was gradually added a total of 6 equivalents of MeSO3H (120 μL, 2.0 mmol) over a period of 2 hours in portions of 2 equivalents at a time and the reaction mixture stirred overnight. Aqueous sat. NaHCO3 was added carefully and the product extracted with EtOAc (2×), dried over Na2SO4, concentrated in vacuo and purified by flash chromatography over silica gel (NH4OH/MeOH/CH2Cl2, 1/9/90) to afford N1-(cyanomethyl)-N2-[4-(4-piperazin-1-ylphenyl)-1,2,5-oxadiazol-3-yl]leucinamide.

reactant | N1-(cyanomethyl)-N2-(4-{4-[4-(tert-butoxycarbonyl)piperazin-1-yl]phenyl}-1,2,5-oxadiazol-3-yl)leucinamide | 0.33 mmol, 170 mg | C(#N)CNC([C@@H](NC1=NON=C1C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)CC(C)C)=O | C25H35N7O4
reactant | MeSO3H | 2.0 mmol, 120 μL, 6 equivalents | CS(=O)(=O)O | CH4O3S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | N1-(cyanomethyl)-N2-[4-(4-piperazin-1-ylphenyl)-1,2,5-oxadiazol-3-yl]leucinamide | C(#N)CNC([C@@H](NC1=NON=C1C1=CC=C(C=C1)N1CCNCC1)CC(C)C)=O | C20H27N7O2
